US04125732
Methyl(p-tert.-butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetate
As described in Example 3, 8.92 g of methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate, 3,45 g of p-tert.-butylphenol and 9.17 g of 60% sodium hydride-oil dispersion are reacted in 75 ml of tetrahydrofuran containing 1 ml of hexamethylphosphoramide and worked-up to give 11 g of product as an oil. Chromatography over silica gel with dichloromethane as eluent gives 7.1 g of gum which is crystallized from methanol to give 4.9 g of white crystals. Recrystallization gives white crystals, mp 64°-65° C.

reactant | methyl bromo{p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 8.92 g | BrC(C(=O)OC)C1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl | C16H14BrClO4
reactant | p-tert.-butylphenol | 3,45 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | sodium hydride | 9.17 g | [H-].[Na+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | Methyl(p-tert.-butylphenoxy){p-[(p-chlorophenoxy)methoxy]phenyl}acetate | 11 g | COC(C(C1=CC=C(C=C1)OCOC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C(C)(C)C)=O | C26H27ClO5
